US06130229
1-(8-Chloro-5,11-dihydro[1]benzoxepino[4,3-b]pyridin-11-yl)-piperazine (420 mg, 1.33 mmol), 4-pyridineacetic acid 1-oxide (280 mg, 2.07 mmol), HOBT (290 mg, 2.14 mmol), and EDCI (470 mg, 2.45 mmol) were stirred at 0C in DMF (5 ml, anhydrous). NMM (0.5 ml, 4.53 mmol) was added, and the reaction mixture was stirred overnight at 20° C. The solvent was evaporated off, and the residue was extracted with methylene chloride (200 ml) and water (100 ml). The organic layer was separated and dried (MgSO4), filtered and evaporated, yielding an oil which was chromatographed on silica gel and eluted with 20%methanol/ethylacetate containing 2% ammonium hydroxide. The product was obtained as a light yellow solid, 4-(8-chloro-5,11-dihydro[1]benzoxepino[4,3-b]pyridin-11-yl)-1-(4-pyridine-acetyl)-piperazine N1-oxide. MS (FAB, M+H)=451.

reactant | 1-(8-Chloro-5,11-dihydro[1]benzoxepino[4,3-b]pyridin-11-yl)-piperazine | 1.33 mmol, 420 mg | ClC1=CC2=C(C(C3=NC=CC=C3CO2)N2CCNCC2)C=C1 | C17H18ClN3O
reactant | 4-pyridineacetic acid 1-oxide | 2.07 mmol, 280 mg | [N+]1(=CC=C(C=C1)CC(=O)O)[O-] | C7H7NO3
reactant | HOBT | 2.14 mmol, 290 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 2.45 mmol, 470 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | NMM | 4.53 mmol, 0.5 ml | CN1CCOCC1 | C5H11NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-(8-chloro-5,11-dihydro[1]benzoxepino[4,3-b]pyridin-11-yl)-1-(4-pyridine-acetyl)-piperazine N1-oxide | ClC1=CC2=C(C(C3=NC=CC=C3CO2)N2CC[N+](CC2)(C(CC2=CC=NC=C2)=O)[O-])C=C1 | C24H23ClN4O3
